US05650428
(RS)-2-amino-4-hydroxybutanoic acid (2.0438 g) was dissolved in water (20 ml). The solution was cooled to 0° C., and potassium carbonate (5.217 g) and ethyl acetate (20 ml) were added. Then, p-chlorobenzenesulfonyl chloride (9.0536 g) and THF (2 ml) were added, and the whole was stirred overnight. After the reaction was completed, the ethyl acetate layer was separated. The aqueous layer was acidified with 2N HCl and extracted with ethyl acetate. The combined ethyl acetate layers were concentrated to give a crude product. The crude product was purified by silica gel column chromatography (silica gel 50 g, hexane/ethyl acetate=2/1) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-4-butanolide (2.8674 g).

reactant | (RS)-2-amino-4-hydroxybutanoic acid | 2.0438 g | NC(C(=O)O)CCO | C4H9NO3
reactant | potassium carbonate | 5.217 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | p-chlorobenzenesulfonyl chloride | 9.0536 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | water | 20 ml | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (RS)-2-(4-chlorobenzenesulfonylamino)-4-butanolide | 2.8674 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1C(=O)OCC1 | C10H10ClNO4S
